US08314087B2
2-(2-(6-Oxo-3-phenylpyridazin-1(6H)-yl)ethyl)isoindoline-1,3-dione.
To a mixture of phthalimide (1.0 g, 6.8 mmol), Ph3P (1.9 g, 7.2 mmol), 2-(2-hydroxyethyl)-6-phenylpyridazin-3(2H)-one (1.2 g, 5.5 mmol) in THF (20 mL) was added diisopropyl azodicarboxylate (1.4 mL, 7.2 mmol) dropwise. The resulting hot, clear solution was stirred at room temperature. After 3 h, hexane (40 mL) was added. The slurry was filtered and the solid was washed with ether (6×15 mL) to give the product as a white (2.1 g). MS (ESI pos. ion) calc'd for C20H15N3O3: 345.1; found: 346.4 (MH+). 1H NMR (400 MHz, DMSO-d6) δ ppm 4.03 (dd, 2 H) 4.39 (t, 2 H) 6.99 (d, J=9.78 Hz, 1 H) 7.26 (t, J=7.43 Hz, 2 H) 7.34 (t, J=7.34 Hz, 1 H) 7.50 (d, J=7.24 Hz, 2 H) 7.72-7.82 (m, 4 H) 7.97 (d, J=9.78 Hz, 1 H)

reactant | phthalimide | 6.8 mmol, 1.0 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | Ph3P | 7.2 mmol, 1.9 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | 2-(2-hydroxyethyl)-6-phenylpyridazin-3(2H)-one | 5.5 mmol, 1.2 g | OCCN1N=C(C=CC1=O)C1=CC=CC=C1 | C12H12N2O2
reactant | diisopropyl azodicarboxylate | 7.2 mmol, 1.4 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | hexane | 40 mL | CCCCCC | C6H14
product | 2-(2-(6-Oxo-3-phenylpyridazin-1(6H)-yl)ethyl)isoindoline-1,3-dione | O=C1C=CC(=NN1CCN1C(C2=CC=CC=C2C1=O)=O)C1=CC=CC=C1 | C20H15N3O3
